US05798374
The starting material 2-bromo-5-nitrothiazole was prepared by treating 2-amino-5-nitrothiazole (Aldrich) with sodium nitrite and hydrogen bromide (Fr. Demande 2,015,434, 1970). 3-Phenyl-1,2,4-triazole-5-thione (E. Hogarth, J. Chem. Soc. (1949) 1163) was prepared by first reacting benzoyl chloride with thiosemicarbazide in pyridine at 0° C. to give benzoyl thiosemicarbazide. Benzoyl thiosemicarbazide was treated with potassium hydroxide in ethanol to give 3-phenyl-1,2,4-triazole-5-thione. 3-Phenyl-1,2,4-triazole-5-thione (1.77 g) was then dissolved in 50 mL of methanol and treated with 0.57 g of 95% sodium methoxide, and then with 2-bromo-5-nitrothiazole (2.09 g). The mixture was stirred at room temperature for 2 hours and the precipitated sodium bromide was removed by filtration. The methanol was evaporated and the product crystallized from ethanol and water to give 1.5 g of 3-[(5-nitrothiazol-2-yl)mercapto]-5-phenyl-1,2,4-triazole, a white solid, MP 155°-157° C.

reactant | 3-Phenyl-1,2,4-triazole-5-thione | 1.77 g | C1(=CC=CC=C1)C=1N=NC(N1)=S | C8H5N3S
reactant | sodium methoxide | 0.57 g | C[O-].[Na+]
reactant | 2-bromo-5-nitrothiazole | 2.09 g | BrC=1SC(=CN1)[N+](=O)[O-] | C3HBrN2O2S
solvent | methanol | 50 mL | CO | CH4O
product | 3-[(5-nitrothiazol-2-yl)mercapto]-5-phenyl-1,2,4-triazole | 1.5 g | [N+](=O)([O-])C1=CN=C(S1)SC1=NNC(=N1)C1=CC=CC=C1 | C11H7N5O2S2
